US07008940B1
1,6,7,8-Tetrahydro-2,2,4,5-tetramethyl-2H-furo[3,2-e]indole
To a solution of 2,3-dihydro-5-hydroxy-6,7-dimethyl-4-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde (1.23 g, 5.0 mmol) in methanol (4 mL) was added concentrated hydrochloric acid (2 mL)-methanol (1 mL) solution, and the mixture was heated to reflux for 2 hours under the nitrogen atmosphere. The reaction mixture was added to a mixture of sodium bicarbonate (3.02 g, 35.9 mmol) in water (10 mL)-ethyl acetate (10 mL) to neutralize, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with saturated brine, dried over magnesium sulfate, treated with active carbon, filtered, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to obtain 497 mg of the title compound.

reactant | 2,3-dihydro-5-hydroxy-6,7-dimethyl-4-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde | 5.0 mmol, 1.23 g | OC=1C(=C2CCN(C2=C(C1C)C)C=O)CC(=C)C | C15H19NO2
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | sodium bicarbonate | 35.9 mmol, 3.02 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 1,6,7,8-Tetrahydro-2,2,4,5-tetramethyl-2H-furo[3,2-e]indole | 497 mg, Yield 46% | CC1(CC2=C3CCNC3=C(C(=C2O1)C)C)C | C14H19NO
